US07572921B2
To a mixture of 2-chloromethyl-1-(tetrahydro-furan-2-yl)-1H-imidazole hydrochloride, (5.7 g, 30.6 mmol), 3-methoxyphenol (7.6 g, 61.2 mmol) and DMSO (30 mL) was added K2CO3 (12.7 g, 91.8 mmol). The mixture was stirred at ambient temperature under N2 overnight. Water (100 mL) was added and the mixture was extracted with CH2Cl2 (3×100 mL). The combined CH2Cl2 extracts were washed with 2N NaOH, dried over Na2SO4 and concentrated in vacuo. The residue was purified by column chromatography (silica gel, 1:2 hexane/EtOAc) to provide the desired 2-(3-methoxy-phenoxymethyl)-1-(tetrahydro-furan-2-yl)-1H-imidazole (3.49 g, 41%) as a colorless oil: ESI MS m/z 275 [C15H18N2O3+H]+.

reactant | 2-chloromethyl-1-(tetrahydro-furan-2-yl)-1H-imidazole hydrochloride | 30.6 mmol, 5.7 g | Cl.ClCC=1N(C=CN1)C1OCCC1
reactant | 3-methoxyphenol | 61.2 mmol, 7.6 g | COC=1C=C(C=CC1)O | C7H8O2
reactant | DMSO | 30 mL | CS(=O)C | C2H6OS
reactant | K2CO3 | 91.8 mmol, 12.7 g | C(=O)([O-])[O-].[K+].[K+]
solvent | Water | 100 mL | O | H2O
product | 2-(3-methoxy-phenoxymethyl)-1-(tetrahydro-furan-2-yl)-1H-imidazole | 3.49 g, 41% | COC=1C=C(OCC=2N(C=CN2)C2OCCC2)C=CC1 | C15H18N2O3
